US08242104B2
A mixture of 2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene hydrochloride (100 mg, 0.255 mmol), 2-bromo-2-methyl-propionic acid ethyl ester (45 uL, 0.31 mmol), cesium carbonate (187 mg, 0.57 mmol) and DMF (0.5 mL) was heated at 70° C. for 3 h the then stirred at RT for 18 h then heated again at 70° C. for 4 h before concentrating in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 5% methanol in DCM) to give 2-{4-[2-(2-Isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidin-1-yl}-2-methyl-propionic acid ethyl ester (47 mg, 36%). LCMS RT=2.24, [M+H]+=507.

reactant | 2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene hydrochloride | 0.255 mmol, 100 mg | Cl.C(C)(C)N1N=C(N=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3CCNCC3)C
reactant | 2-bromo-2-methyl-propionic acid ethyl ester | 0.31 mmol, 45 uL | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | cesium carbonate | 0.57 mmol, 187 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-{4-[2-(2-Isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidin-1-yl}-2-methyl-propionic acid ethyl ester | 47 mg, 36% | C(C)OC(C(C)(C)N1CCC(CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C(C)C)C=C1)=O | C28H38N6O3
